US08791132B2
To a solution of 1-(2,8-dimethyl-3,4-dihydro-1H-pyrido[4,3-b]indol-5(2H)-yl)-2-(pyridin-3-yl)propan-2-ol (200 mg, 0.597 mmol) in DMF (5 mL) was added potassium carbonate (412 mg, 2.98 mmol). After stirring for 5 min at RT, ethyl bromoacetate (200 mg, 1.19 mmol) was added into the reaction mixture, which was stirred at RT for 2 h. The progress of reaction was monitored by LCMS. The reaction was quenched with water and extracted with EtOAc. The aqueous layer was concentrated and residue was purified by reverse HPLC to yield 2-((1-(2,8-dimethyl-3,4-dihydro-1H-pyrido[4,3-b]indol-5(2H)-yl)-2-(pyridin-3-yl)propan-2-yl)oxy)acetic acid (80 mg). The resulting racemate was purified and resolved by chiral preparative HPLC. 1H NMR (CD3OD, freebase) δ (ppm): 8.5 (d, 1H), 8.36 (s, 1H), 7.8 (dd, 1H), 7.31 (m, 1H), 7.19 (s, 1H), 7.1 (d, 1H), 6.88 (d, 1H), 4.86 (m, 1H), 4.58 (s, 1H), 4.32 (d, 1H), 4.25 (m, 2H), 3.94 (m, 2H), 3.8 (m, 1H), 3.35 (s, 3H), 3.2 (m, 1H), 3.0 (m, 1H), 2.36 (s, 3H), 1.69 (s, 3H).

reactant | 1-(2,8-dimethyl-3,4-dihydro-1H-pyrido[4,3-b]indol-5(2H)-yl)-2-(pyridin-3-yl)propan-2-ol | 0.597 mmol, 200 mg | CN1CC2=C(N(C=3C=CC(=CC23)C)CC(C)(O)C=2C=NC=CC2)CC1 | C21H25N3O
reactant | potassium carbonate | 2.98 mmol, 412 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl bromoacetate | 1.19 mmol, 200 mg | BrCC(=O)OCC | C4H7BrO2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 2-((1-(2,8-dimethyl-3,4-dihydro-1H-pyrido[4,3-b]indol-5(2H)-yl)-2-(pyridin-3-yl)propan-2-yl)oxy)acetic acid | 80 mg | CN1CC2=C(N(C=3C=CC(=CC23)C)CC(C)(C=2C=NC=CC2)OCC(=O)O)CC1 | C23H27N3O3
